US04668763
Trimelliticacid-2-ethylhexyl Ester
193 g (1 mol) of trimellitic acid anhydride and 234 g (1.8 mol) of 2-ethylhexanol plus 0.2 g of octylene glycol titanate were placed in a one-liter round flask. The mixture was heated to 150° C. with stirring and the introduction of nitrogen gas, and the splitting off of water begins. Within 4 hours the temperature is raised to 220° C., the distillate is separated by means of a Vigreux column, the top temperature amounts to 100° to 105° C. The bath temperature is maintained until the top temperature falls below 80° C. The product has an acid number of 150±10 mg KOH/g. 1.7 mol of 2-ethylhexanol per mol of trimellitic acid is contained in the product.

reactant | trimellitic acid anhydride | 1 mol, 193 g | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
reactant | 2-ethylhexanol | 1.8 mol, 234 g | C(C)C(CO)CCCC | C8H18O
reactant | 2-ethylhexanol | 1.7 mol | C(C)C(CO)CCCC | C8H18O
reactant | trimellitic acid | C(C=1C(C(=O)O)=CC(C(=O)O)=CC1)(=O)O | C9H6O6
catalyst | octylene glycol titanate | 0.2 g | C(CCCCO)CCCO.O[Ti]=O
solvent | water | O | H2O
product | Trimelliticacid-2-ethylhexyl Ester | C(C)C(COC(C=1C(C(=O)O)=CC(C(=O)O)=CC1)=O)CCCC | C17H22O6
